US06380288B1
Synthesis of N′-diphenylmethylenebenzohydrazide
A four neck flask (1 liter) equipped with a thermometer, a reflux condenser and a stirrer was charged with 68.0 g (0.5 mol) of benzohydrazide, 700 ml of methanol and 3.5 ml of acetic acid. Added thereto was 109.2 g (0.6 mol) of benzophenone while stirring at room temperature, and heating under reflux was continued for 12 hours. The reaction liquid was cooled down to 5° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby white crystal was obtained.

reactant | benzohydrazide | 0.5 mol, 68.0 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | methanol | 700 ml | CO | CH4O
reactant | benzophenone | 0.6 mol, 109.2 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
product | N′-diphenylmethylenebenzohydrazide | C1(=CC=CC=C1)C(=NNC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H16N2O
